US07932247B2
Phenylmethyl (2S)-4-({2′-fluoro-5′-[({[3-(4-piperidinyl)phenyl]carbonyl}amino)methyl]-3-biphenylyl}methyl)-2-methyl-1-piperazinecarboxylate
To a solution of the commercially available 3-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)benzoic acid (183 mg, 0.60 mmol) in 2 mL of dry DMF was added phenylmethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (250 mg, 0.60 mmol), DIPEA (0.2 ml, 1.4 mmol), and HATU (251 mg, 0.66 mmol). The reaction mixture was stirred at room temperature for 2 h before addition of 2 mL of saturated Na2CO3 and 10 mL of EtOAc. The organic layer was separated, dried over Na2SO4, and filtered. The filtrate was concentrated and the residue was mixed with 4M HCl in 1,4-dioxane (5 mL). The resulting mixture was stirred at room temperature for 1 h. After removal of the solvent, the residue was purified by Gilson reverse phase HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 70/30, v/v, over 12 min), to give the title compound (162 mg, 43%). LC/MS: m/z, 635 (M+H), 1.75 min.

reactant | 3-(1-{[(1,1-dimethylethyl)oxy]carbonyl}-4-piperidinyl)benzoic acid | 0.60 mmol, 183 mg | CC(C)(C)OC(=O)N1CCC(CC1)C=1C=C(C(=O)O)C=CC1 | C17H23NO4
reactant | phenylmethyl (2S)-4-{[5′-(aminomethyl)-2′-fluoro-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.60 mmol, 250 mg | NCC=1C=CC(=C(C1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C)F | C27H30FN3O2
reactant | DIPEA | 1.4 mmol, 0.2 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.66 mmol, 251 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Na2CO3 | 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | Phenylmethyl (2S)-4-({2′-fluoro-5′-[({[3-(4-piperidinyl)phenyl]carbonyl}amino)methyl]-3-biphenylyl}methyl)-2-methyl-1-piperazinecarboxylate | 162 mg, 43% | FC1=C(C=C(C=C1)CNC(=O)C1=CC(=CC=C1)C1CCNCC1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C | C39H43FN4O3
